US04378314
6-Azidohexanoic acid
The above compound was prepared by a literature procedure [W. M. Rothe and K. Gehrke, Makromol Chem. 83, 1 (1965)] as follows: To a solution of 6-bromohexanoic acid (21.6 g, 0.11 mol) in 3.3N sodium hydroxide (33.3 ml) was added sodium azide (8.33 g, 1.27 mol) and the mixture stirred at room temperature for 5 min. Ether (5 ml) was then added and the reaction mixture was refluxed for 6 h, cooled to room temperature and acidified with 2N H2SO4 to pH 2. The oily layer which formed was separated and the aqueous layer extracted with ether (25 ml). The organic extract was combined with the oily layer and the resulting solution dried (Na2SO4) and evaporated to yield 14.5 g (83.6%) of title compound as an oil; ir (neat) νmax : 2097 (N3), 1708 cm-1 (C=O); 1Hmr (CDCl3) δ: 1.2-2.0 (m, 6H, 3CH2), 2.4 (m, 2H,--CH2CO--), 3.3 (m, 2H, CH2N3), 11.5 (s, 1H, CO2H).

reactant | 6-bromohexanoic acid | 0.11 mol, 21.6 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | sodium azide | 1.27 mol, 8.33 g | [N-]=[N+]=[N-].[Na+]
reactant | Ether | 5 ml | CCOCC | C4H10O
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | sodium hydroxide | 3.3N, 33.3 ml | [OH-].[Na+]
product | 6-Azidohexanoic acid | 14.5 g, 83.6% | N(=[N+]=[N-])CCCCCC(=O)O | C6H11N3O2
